US09290468B2
Step 1: 5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one
To a solution of 5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thiazole-6-carboxylic acid (120 mg, 0.299 mmol) in t-BuOH (10 mL) was added DPPA (48 mg, 0.449 mmol) followed by triethylamine (60 mg, 0.598 mmol). The mixture was heated under reflux for 3 h and allowed to slowly warm to room temperature. The solvent was removed in vacuo and the resultant crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 2:1, v/v). The corresponding product was obtained (white solid, 100 mg, 83.9% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.76 (s, 1H), 8.65 (s, 1H), 7.95 (d, 1H), 7.77 (d, 1H), 7.50 (m, 1H), 7.39 (s, 1H).

reactant | 5-((4-bromo-2-chlorophenyl)amino)-4-fluorobenzo[d]thiazole-6-carboxylic acid | 0.299 mmol, 120 mg | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CS2)C1F)C(=O)O)Cl | C14H7BrClFN2O2S
reactant | DPPA | 0.449 mmol, 48 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.598 mmol, 60 mg | C(C)N(CC)CC | C6H15N
solvent | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
product | 5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | 83.9% yield | BrC1=CC(=C(C=C1)N1C(NC2=CC3=C(N=CS3)C(=C21)F)=O)Cl | C14H6BrClFN3OS
